US09402841B2
Step B: (S)-tert-butyl 3-((3-cyanoisoquinolin-1-yl)oxy)pyrrolidine-1-carboxylate
A solution of (S)-tert-butyl 3-((3-chloroisoquinolin-1-yl)oxy)pyrrolidine-1-carboxylate (4.430 g, 12.70 mmol), zinc cyanide (2.980 g, 25.40 mmol) and Pd(PPh3)4 (1.468 g, 1.27 mmol) in DMF (36.3 mL) was heated at 160° C. for 20 minutes in a microwave reactor. The reaction mixture was filtered, diluted with water (400 mL) and extracted with EtOAc (2×100 mL). The organic layers were combined, washed with brine, dried over Na2SO4, and concentrated in vacuo. The crude product was purified by silica column chromatography to give the title compound as a white-to-pale-yellow solid (3.570 g, 83%). 1H NMR (500 MHz, DMSO-d6) δ ppm 1.40 (d, J=13.18 Hz, 9H), 2.23 (d, J=11.23 Hz, 2H), 3.42-3.59 (m, 3H), 3.65-3.75 (m, 1H), 5.68-5.80 (m, 1H), 7.82-7.89 (m, 1H), 7.91-7.98 (m, 1H), 8.06 (d, J=8.79 Hz, 1H), 8.21-8.30 (m, 2H); ESI-MS m/z [M+H-tert-butyl]+ 284.6.

reactant | (S)-tert-butyl 3-((3-chloroisoquinolin-1-yl)oxy)pyrrolidine-1-carboxylate | 12.70 mmol, 4.430 g | ClC=1N=C(C2=CC=CC=C2C1)O[C@@H]1CN(CC1)C(=O)OC(C)(C)C | C18H21ClN2O3
reactant | DMF | 36.3 mL | CN(C)C=O | C3H7NO
catalyst | zinc cyanide | 25.40 mmol, 2.980 g | [C-]#N.[Zn+2].[C-]#N
catalyst | Pd(PPh3)4 | 1.27 mmol, 1.468 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (S)-tert-butyl 3-((3-cyanoisoquinolin-1-yl)oxy)pyrrolidine-1-carboxylate | 3.570 g, 83% | C(#N)C=1N=C(C2=CC=CC=C2C1)O[C@@H]1CN(CC1)C(=O)OC(C)(C)C | C19H21N3O3
